US04063929
f. t-Octylammonium 5-(2-Chloro-4-trifluoromethylphenoxy)-2-nitrobenzoate
5-(2-Chloro-4-trifluoromethylphenoxy)-2-nitrobenzoic acid (3.0 g, 0.0083 mole) is dissolved in glyme (20 ml) and t-octylamine (1.17 g, 0.0091 mole) is added rapidly while stirring. The solvent is removed in vacuo and the residue triturated with petroleum either (bp 30°-60° C.) and dried to give 2.8 g of product, mp 140°-57° C. Anal. Calcd. for C22H24ClF3N2O5 : C, 53.82; H, 5.33; N, 5.70; Cl, 7.22: F, 11.61. Found: C, 53.50; H, 5.37; N, 6.06; Cl, 6.87; F, 11.10.

reactant | 5-(2-Chloro-4-trifluoromethylphenoxy)-2-nitrobenzoic acid | 0.0083 mole, 3.0 g | ClC1=C(OC=2C=CC(=C(C(=O)O)C2)[N+](=O)[O-])C=CC(=C1)C(F)(F)F | C14H7ClF3NO5
reactant | t-octylamine | 0.0091 mole, 1.17 g | C(C)(C)(CC(C)(C)C)N | C8H19N
solvent | glyme | 20 ml | C(OC)COC | C4H10O2
product | t-Octylammonium 5-(2-Chloro-4-trifluoromethylphenoxy)-2-nitrobenzoate | 2.8 g | ClC1=C(OC=2C=CC(=C(C(=O)[O-])C2)[N+](=O)[O-])C=CC(=C1)C(F)(F)F.C(C)(C)(CC(C)(C)C)[NH3+] | InChI=1S/C14H7ClF3NO5.C8H19N/c15-10-5-7(14(16,17)18)1-4-12(10)24-8-2-3-11(19(22)23)9(6-8)13(20)21;1-7(2,3)6-8(4,5)9/h1-6H,(H,20,21);6,9H2,1-5H3
